US05663139
c) 1-Benzyloxycarbonylamino-2-phenylethylphosphonous acid
2.25 ml (14.25 mmol) of benzyl chloroformate are added dropwise, at 0° C. and within the space of 30 min., to a suspension of 1.76 g (9.5 mmol) of 1-amino-2-phenylethylphosponous acid in 15 ml of 1M NaOH, 5 ml of water and 5 ml of dioxane. During a further 2.5 h of stirring at 0° C., the pH of the mixture is maintained at 9-10 using 1M NaOH (approximately 10 ml). After removing the cooling medium, the mixture is stirred at RT overnight. The reaction solution is then washed several times with diethyl ether. The aqueous phase is adjusted to pH 2, at 0°-5° C., using 6M HCl and extracted several times with ethyl acetate. The combined extracts are washed with a saturated solution of NaCl, dried with Na2SO4, filtered and subjected to rotary evaporation i.V. A solid residue remains which is recrystallized from ether/petroleum ether.

reactant | benzyl chloroformate | 14.25 mmol, 2.25 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 1-amino-2-phenylethylphosponous acid | 9.5 mmol, 1.76 g | NC(CC1=CC=CC=C1)P(O)O | C8H12NO2P
solvent | NaOH | 1M, 15 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1M, approximately 10 ml | [OH-].[Na+]
product | 1-Benzyloxycarbonylamino-2-phenylethylphosphonous acid | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)P(O)O | C16H18NO4P
